US07179823B1
Lithium aluminium hydride (0.25 g) was added to a solution of ethyl 1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-(2-pyridyl)pyrrole-3-carboxylate (2.40 g) in tetrahydrofuran (30 ml) at 0° C., and the mixture was stirred at 0° C. for 30 minutes. After sodium sulfate decahydrate (2.13 g) and hexane (30 ml) were added to the reaction mixture, the mixture was stirred at room temperature for 30 minutes. After the precipitate was removed by filtration, the filtrate was concentrated. The residue was subjected to silica gel column chromatography, and [1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-(2-pyridyl)-3-pyrrolyl]methanol (2.09 g, yield: 95%) was obtained as an oily substance from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio).

reactant | Lithium aluminium hydride | 0.25 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-(2-pyridyl)pyrrole-3-carboxylate | 2.40 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2C=C(C(=C2)C2=NC=CC=C2)C(=O)OCC)C=C1 | C30H27N3O4
reactant | sodium sulfate decahydrate | 2.13 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | hexane | 30 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | [1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-(2-pyridyl)-3-pyrrolyl]methanol | 2.09 g, yield: 95% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2C=C(C(=C2)C2=NC=CC=C2)CO)C=C1 | C28H25N3O3
